US06300368B1
4-[2-(Isopropylamino)ethoxy]3,5-dimethylaniline (2.6 g) solution in dimethylformamido (15 ml) was added with 2-(methanesulfonamido)benzoyl chloride (3.0 g) and the mixture was stirred for 2 hours at room temperature. After being concentrated under vacuum, the reaction mixture was dissolved into chloroform (50 ml) and extracted with 1N sodium hydroxide (100 ml). Resultant aqueous layer was neutralized with 1N HCl (100 ml) and extracted with chloroform (150 ml). Chloroform layer obtained was concentrated and purified by silica-gel column chromatography (chloroform:methanol=10:1) to obtain 4′-[2-isopropylamino) ethoxy]-2-methanesulfonamido-3′,5′-dimethylbenzanilide (2.15 g) as white solid.

reactant | 4-[2-(Isopropylamino)ethoxy]3,5-dimethylaniline | 2.6 g | C(C)(C)NCCOC1=C(C=C(N)C=C1C)C | C13H22N2O
reactant | 2-(methanesulfonamido)benzoyl chloride | 3.0 g | CS(=O)(=O)NC1=C(C(=O)Cl)C=CC=C1 | C8H8ClNO3S
product | 2-methanesulfonamido-3′,5′-dimethylbenzanilide | 2.15 g | CS(=O)(=O)NC1=C(C(=O)NC2=CC(=CC(=C2)C)C)C=CC=C1 | C16H18N2O3S
